US08106215B2
Imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-[3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide with 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid.

reactant | imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | [C@H]12[C@H](NC[C@@H]2CCC1)CNC(=O)C1=CN=C2SC=CN21 | C14H18N4OS
reactant | 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid | CC=1SC(=C(N1)C(=O)O)C=1C=C(C=CC1)C | C12H11NO2S
product | Imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-[3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC=1SC(=C(N1)C(=O)N1[C@@H]([C@H]2CCC[C@H]2C1)CNC(=O)C1=CN=C2SC=CN21)C=2C=C(C=CC2)C | C26H27N5O2S2
